US06323220B1
1-(1-Cyclohexen-1-yl)pyrrolidine
1 g of para-toluenesulphonic acid is added to a mixture of 20 mmol of cyclohexanone and 22 mmol of pyrrolidine in 200 ml of dry benzene. The reaction mixture is stirred at reflux until, in the infra-red, the ketone has disappeared, with the enamine concomitantly appearing. The solvent is then evaporated off and the crude residue is purified by distillation in vacuo.

reactant | para-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | cyclohexanone | 20 mmol | C1(CCCCC1)=O | C6H10O
reactant | pyrrolidine | 22 mmol | N1CCCC1 | C4H9N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-(1-Cyclohexen-1-yl)pyrrolidine | C1(=CCCCC1)N1CCCC1 | C10H17N
